US07034039B2
Tert-butyl[6-(2-amino-2-oxoethoxy)-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.15 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and the mixture was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure, and the precipitated crystals were recrystallized from ethyl acetate-diisopropyl ether to give 2-[[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-6-isoquinolinyl]oxy]acetamide hydrochloride (0.11 g, 91.7%) as crystals.

reactant | Tert-butyl[6-(2-amino-2-oxoethoxy)-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.3 mmol, 0.15 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCC(=O)N)=O)CC(C)C)=O | C28H35N3O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-[[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)-1-oxo-1,2-dihydro-6-isoquinolinyl]oxy]acetamide hydrochloride | 0.11 g, 91.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCC(=O)N)=O)CC(C)C | InChI=1S/C23H27N3O3.ClH/c1-14(2)12-26-20(11-24)22(16-6-4-15(3)5-7-16)19-10-17(29-13-21(25)27)8-9-18(19)23(26)28;/h4-10,14H,11-13,24H2,1-3H3,(H2,25,27);1H
